US08304419B2
6-chloro-2-fluoro-3-methylphenol (4.73 g, 29.5 mmol) and 18-crown-6 (1.558 g, 5.90 mmol) were combined and treated with 20% potassium t-butoxide in THF (16.54 g, 29.5 mmol) in THF at 25° C. and stirred 15 min. 2,6-dichloro-4-pyridinecarbonitrile (5.1 g, 29.5 mmol) was added to the reaction mixture and stirred at ambient temperature for 4 days. A fine white precipitate was filtered off from the reaction mixture and washed with a small amount of DMSO. This material was partitioned between EtOAc and saturated aqueous NaHCO3, the phases separated, and the aqueous phase extracted twice with EtOAc. The organic phases were combined, dried over MgSO4, filtered and concentrated to dryness to give 2-chloro-6-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-4-pyridinecarbonitrile (3.88 g, 13.06 mmol, 44.3% yield) as a white solid. The DMSO filtrate was treated with water and saturated aqueous NaHCO3 to give a purple precipitate that was filtered off, washed with water and air dried. This material was dissolved in DCM, dried over MgSO4, filtered and concentrated to dryness to give a purple solid. The residue was trituarated with EtOH, cooled in an ice bath, filtered and air dried to give a second batch of the desired product (3.65 g, 12.28 mmol, 41.7% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.96 (d, J=0.82 Hz, 1H), 7.93 (d, J=0.73 Hz, 1H), 7.28-7.43 (m, 2H), 2.28 (d, J=1.74 Hz, 3H). LC-MS (ES+) m/z 296.95, 298.88 [M+H].

reactant | 6-chloro-2-fluoro-3-methylphenol | 29.5 mmol, 4.73 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 18-crown-6 | 5.90 mmol, 1.558 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 2,6-dichloro-4-pyridinecarbonitrile | 29.5 mmol, 5.1 g | ClC1=NC(=CC(=C1)C#N)Cl | C6H2Cl2N2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 29.5 mmol, 16.54 g | C1CCOC1 | C4H8O
product | 2-chloro-6-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-4-pyridinecarbonitrile | 13.06 mmol, 3.88 g, 44.3% yield | ClC1=NC(=CC(=C1)C#N)OC1=C(C(=CC=C1Cl)C)F | C13H7Cl2FN2O
